US05536718
N-[5-(5H-Pyrrolo[2,1-c][1,4]benzodiazepin-10(11H) -ylcarbonyl)-2-pyridinyl]-2-methylbenzeneacetamide
A mixture of 2.0 mmol of 10, 11-dihydro-10-(6-amino-3-pyridinylcarbonyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine, 2.1 mmol of 2-methylbenzeneacetyl chloride and 5 mmol of triethylamine in 10 ml of dichloromethane is stirred under argon at room temperature for 16 hours. The solvent is removed under vacuum and the residue partitioned between 50 ml of ethyl acetate and 25 ml of water. The organic layer is separated, washed with H2O, 1N NaHCO3, brine and dried (Na2SO4). The solvent is removed and the residue chromatographed on silica gel with ethyl acetate-hexane as solvent to give the product as a solid.

reactant | 10, 11-dihydro-10-(6-amino-3-pyridinylcarbonyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 2.0 mmol | NC1=CC=C(C=N1)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2 | C18H16N4O
reactant | 2-methylbenzeneacetyl chloride | 2.1 mmol | CC1=C(C=CC=C1)CC(=O)Cl | C9H9ClO
reactant | triethylamine | 5 mmol | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-[5-(5H-Pyrrolo[2,1-c][1,4]benzodiazepin-10(11H) -ylcarbonyl)-2-pyridinyl]-2-methylbenzeneacetamide | C=1C=CN2C1CN(C1=C(C2)C=CC=C1)C(=O)C=1C=CC(=NC1)NC(CC1=C(C=CC=C1)C)=O | C27H24N4O2
